US03978224
5-Chloro-2-[N(2-cyanoethyl)aminomethyl]-3-(2-fluorophenyl)indole hydrochloride
Treat 1.3 g of 2-aminomethyl-5-chloro-3-(2-fluorophenyl)indole with 8 ml of acrylonitrile and reflux for 16 hours. Concentrate to a residue and dissolve the residue in alcohol, e.g. ethanol. Add an ethanolic solution of hydrogen chloride, collect and dry the solid which precipitates out; the title compound melts at 212- 213°C.

reactant | 2-aminomethyl-5-chloro-3-(2-fluorophenyl)indole | 1.3 g | NCC=1NC2=CC=C(C=C2C1C1=C(C=CC=C1)F)Cl | C15H12ClFN2
reactant | acrylonitrile | 8 ml | C(C=C)#N | C3H3N
product | 5-Chloro-2-[N(2-cyanoethyl)aminomethyl]-3-(2-fluorophenyl)indole hydrochloride | Cl.ClC=1C=C2C(=C(NC2=CC1)CNCCC#N)C1=C(C=CC=C1)F | InChI=1S/C18H15ClFN3.ClH/c19-12-6-7-16-14(10-12)18(13-4-1-2-5-15(13)20)17(23-16)11-22-9-3-8-21;/h1-2,4-7,10,22-23H,3,9,11H2;1H
